US07915411B2
2-Bromomethyl-1-chloro-4-fluoro-benzene
To a solution of (2-chloro-5-fluoro-phenyl)-methanol (5.0 g, 31.1 mmol) in dichloromethane (40 mL) was added drop wise phosphorus tribromide (87 g, 31.1 mmol). The mixture was stirred at room temperature for 16 h. The reaction was poured onto ice/water. The aqueous phase was made basic with sodium bicarbonate. The aqueous phase was extracted with dichloromethane. The organic phase was concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with (hexanes/ethyl acetate 90:10) to give the title compound (5.75 g, 82.5%).

reactant | (2-chloro-5-fluoro-phenyl)-methanol | 31.1 mmol, 5.0 g | ClC1=C(C=C(C=C1)F)CO | C7H6ClFO
reactant | phosphorus tribromide | 31.1 mmol, 87 g | P(Br)(Br)Br | Br3P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 2-Bromomethyl-1-chloro-4-fluoro-benzene | 5.75 g, 82.5% | BrCC1=C(C=CC(=C1)F)Cl | C7H5BrClF
